US08293768B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(pyridin-3-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(pyridin-3-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with benzylamine, the title compound was obtained as a colorless solid in 13% yield: mp 110-113° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.58-8.56 (m, 2H), 7.67 (d, J=7.8 Hz, 1H), 7.33-7.28 (m, 6H), 6.02 (br s, 1H), 4.57 (d, J=5.6 Hz, 2H), 4.49 (s, 2H), 4.11-4.06 (m, 2H), 3.51-3.45 (m, 2H), 2.61 (s, 3H); MS (ES+) m/z 408.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 4-methyl-2-(2-oxo-3-(pyridin-3-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC=1C=NC=CC1)=O | C14H14N4O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-4-methyl-2-(2-oxo-3-(pyridin-3-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxamide | 13% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC=1C=NC=CC1)=O)C | C21H21N5O2S
